US08026257B2
7-bromo-5-chloro-1H-indole.
Made from 2-bromo-4-chloroaniline using the method for 7-bromo-5-(trifluoromethyl)-1H-indole. 1H-NMR (CDCl3, 400 MHz) δ 8.32 (bs, 1H), 7.55 (d, J=1.2 Hz, 1H), 7.55 (d, J=1.8 Hz, 1H), 7.27 (t, J=3.0 Hz, 1H), 6.56 (dd, J=3.3, 2.3 Hz, 1H). LC/MS (HPLC method 4): tR=3.07 min, 229.95(MH)+.

reactant | 2-bromo-4-chloroaniline | BrC1=C(N)C=CC(=C1)Cl | C6H5BrClN
reactant | 7-bromo-5-(trifluoromethyl)-1H-indole | BrC=1C=C(C=C2C=CNC12)C(F)(F)F | C9H5BrF3N
product | 7-bromo-5-chloro-1H-indole | BrC=1C=C(C=C2C=CNC12)Cl | C8H5BrClN
